US07750155B2
To a solution of tert-butyl [(3R)-1-(7-oxabicyclo[2.2.1]hept-1-ylmethyl)-3-pyrrolidinyl]carbamate (377 mg) in AcOEt (3.8 mL) was added 4N HCl—AcOEt (3.2 mL), which was stirred at room temperature for 5 hours. The solvent was evaporated. The residue was dried to give (3R)-1-(7-oxabicyclo[2.2.1]hept-1-ylmethyl)-3-pyrrolidinamine dihydrochloride (370 mg) as an orange amorphous.

reactant | tert-butyl [(3R)-1-(7-oxabicyclo[2.2.1]hept-1-ylmethyl)-3-pyrrolidinyl]carbamate | 377 mg | C12(CCC(CC1)O2)CN2C[C@@H](CC2)NC(OC(C)(C)C)=O | C16H28N2O3
reactant | HCl AcOEt | 4N, 3.2 mL | Cl.CCOC(=O)C
solvent | AcOEt | 3.8 mL | CCOC(=O)C | C4H8O2
product | (3R)-1-(7-oxabicyclo[2.2.1]hept-1-ylmethyl)-3-pyrrolidinamine dihydrochloride | 370 mg | Cl.Cl.C12(CCC(CC1)O2)CN2C[C@@H](CC2)N | InChI=1S/C11H20N2O.2ClH/c12-9-3-6-13(7-9)8-11-4-1-10(14-11)2-5-11;;/h9-10H,1-8,12H2;2*1H/t9-,10?,11?;;/m1../s1
